### PR TITLE
[Merged by Bors] - feat: add isCoprime_of_not_zeta_sub_one_dvd and related lemmas

### PR DESCRIPTION
**Pull request by riccardobrasca**
From flt-regular.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean [hunk 1]
```diff
@@ -182,6 +182,42 @@ instance isPrime_span_zeta_sub_one' : IsPrime (span {hζ.toInteger - 1}) := by
...
+theorem associated_zeta_sub_one_pow_prime :
+    Associated ((hζ.toInteger - 1) ^ (p - 1)) (p : 𝓞 K) := by
+  rw [← eval_one_cyclotomic_prime (R := 𝓞 K) (p := p),
+    cyclotomic_eq_prod_X_sub_primitiveRoots hζ.toInteger_isPrimitiveRoot, eval_prod]
+  simp only [eval_sub, eval_X, eval_C]
+  rw [← Nat.totient_prime hp.out, ← hζ.toInteger_isPrimitiveRoot.card_primitiveRoots,
+    ← Finset.prod_const]
+  apply Associated.prod
+  intro η hη
+  refine hζ.toInteger_isPrimitiveRoot.ntRootsFinset_pairwise_associated_sub_one_sub_of_prime
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean]: There is a typo in the lemma name (at the declaration site): it should be `nthRootsFinset_pairwise_associated_sub_one_sub_of_prime`. Maybe you can fix this while you are at it.

File: Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean [hunk 2]
```diff
@@ -182,6 +182,42 @@ instance isPrime_span_zeta_sub_one' : IsPrime (span {hζ.toInteger - 1}) := by
...
+`p` is prime. -/
+theorem associated_zeta_sub_one_pow_prime :
+    Associated ((hζ.toInteger - 1) ^ (p - 1)) (p : 𝓞 K) := by
+  rw [← eval_one_cyclotomic_prime (R := 𝓞 K) (p := p),
+    cyclotomic_eq_prod_X_sub_primitiveRoots hζ.toInteger_isPrimitiveRoot, eval_prod]
+  simp only [eval_sub, eval_X, eval_C]
+  rw [← Nat.totient_prime hp.out, ← hζ.toInteger_isPrimitiveRoot.card_primitiveRoots,
+    ← Finset.prod_const]
+  apply Associated.prod
+  intro η hη
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean]: Maybe a separate lemma along the lines of (with the current variables)
```lean
lemma associated_one_sub_of_isPrimitiveRoot {η : K} (hη : IsPrimitiveRoot η p) :
    Associated (1 - hζ.toInteger) (1 - hη.toInteger) := by
```
(or perhaps a more general version not requiring `p` to be prime) would make sense?

File: Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean [hunk 3]
```diff
@@ -182,6 +182,42 @@ instance isPrime_span_zeta_sub_one' : IsPrime (span {hζ.toInteger - 1}) := by
...
+/-- If `ζ - 1` does not divide `x`, then `p` and `x` are coprime, where `ζ` is a primitive `p`-th
+root of unity and `p` is prime. -/
+theorem isCoprime_of_not_zeta_sub_one_dvd {x : 𝓞 K} (hx : ¬ hζ.toInteger - 1 ∣ x) :
+    IsCoprime (p : 𝓞 K) x := by
+  rwa [← Ideal.isCoprime_span_singleton_iff,
+    ← Ideal.span_singleton_eq_span_singleton.mpr (associated_zeta_sub_one_pow_prime p hζ),
+    ← Ideal.span_singleton_pow, IsCoprime.pow_left_iff, Ideal.isCoprime_iff_gcd,
+    (Ideal.prime_span_singleton_iff.mpr hζ.zeta_sub_one_prime').irreducible.gcd_eq_one_iff,
+    Ideal.dvd_span_singleton, Ideal.mem_span_singleton]
+  · simpa only [ge_iff_le, tsub_pos_iff_lt] using hp.out.one_lt
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean]:
```suggestion
    ← Ideal.span_singleton_pow, IsCoprime.pow_left_iff (by grind [hp.out.one_lt]),
    Ideal.isCoprime_iff_gcd,
    (Ideal.prime_span_singleton_iff.mpr hζ.zeta_sub_one_prime').irreducible.gcd_eq_one_iff,
    Ideal.dvd_span_singleton, Ideal.mem_span_singleton]
```
`open Ideal in` might be an option...

File: Mathlib/RingTheory/RootsOfUnity/CyclotomicUnits.lean [hunk 4]
```diff
@@ -118,20 +118,23 @@ theorem associated_pow_add_sub_sub_one (hζ : IsPrimitiveRoot ζ n) (hn : 2 ≤
 
 /-- If `p` is prime and `ζ` is a `p`-th primitive root of unity, then `ζ - 1` and `η₁ - η₂` are
   associated for all distinct `p`-th roots of unity `η₁` and `η₂`. -/
-lemma ntRootsFinset_pairwise_associated_sub_one_sub_of_prime (hζ : IsPrimitiveRoot ζ p)
+lemma nthRootsFinset_pairwise_associated_sub_one_sub_of_prime (hζ : IsPrimitiveRoot ζ p)
     (hp : p.Prime) :
-    Set.Pairwise (nthRootsFinset p (1 : A)) (fun η₁ η₂ ↦ Associated (ζ - 1) (η₁ - η₂)) := by
+    Set.Pairwise (nthRootsFinset p (1 : A)) (fun η₁ η₂ ↦ Associated (ζ - 1) (η₁ - η₂)) :=
+  by
```
Comment (MichaelStollBayreuth) [inline Mathlib/RingTheory/RootsOfUnity/CyclotomicUnits.lean]:
```suggestion
    Set.Pairwise (nthRootsFinset p (1 : A)) fun η₁ η₂ ↦ Associated (ζ - 1) (η₁ - η₂) := by
```
(the parens should not be necessary)

File: Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean (hunk 3 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean]: It turns out that `Ideal` is already opened, thanks for the suggestion!

File: Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean [hunk 5]
```diff
@@ -185,10 +185,21 @@ instance isPrime_span_zeta_sub_one' : IsPrime (span {hζ.toInteger - 1}) := by
...
 unity. -/
 theorem two_not_mem_span_zeta_sub_one' (h : 2 < p) : (2 : 𝓞 K) ∉ span {hζ.toInteger - 1} := by
-  rw [Ideal.mem_span_singleton]
+  rw [mem_span_singleton]
   rw [← pow_one p] at hK hζ
   exact hζ.toInteger_sub_one_not_dvd_two h.ne'
 
+omit hp hK [NumberField K] in
+lemma associated_one_sub_of_isPrimitiveRoot [NeZero p] {η : K} (hη : IsPrimitiveRoot η p) :
+    Associated (1 - hζ.toInteger) (1 - hη.toInteger) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean]: It looks like `ζ - 1` is more commonly used than `1 - ζ`; so maybe it's better to use this spelling. But I'll leave that to you.

File: Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean [hunk 6]
```diff
@@ -182,6 +182,52 @@ instance isPrime_span_zeta_sub_one' : IsPrime (span {hζ.toInteger - 1}) := by
...
+  exact hζ.toInteger_sub_one_not_dvd_two h.ne'
+
+omit hp hK [NumberField K] in
+lemma associated_one_sub_of_isPrimitiveRoot [NeZero p] {η : K} (hη : IsPrimitiveRoot η p) :
+    Associated (1 - hζ.toInteger) (1 - hη.toInteger) := by
+  obtain ⟨i, -, hi, hζη⟩ := hζ.isPrimitiveRoot_iff.mp hη
+  have htoInteger : hη.toInteger = hζ.toInteger ^ i := by
+    apply RingOfIntegers.ext
+    exact hζη.symm
+  rw [htoInteger]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean]:
```suggestion
  rw [show hη.toInteger = hζ.toInteger ^ i from RingOfIntegers.ext hζη.symm]
```
perhaps?

File: Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean [hunk 7]
```diff
@@ -202,21 +213,20 @@ theorem associated_zeta_sub_one_pow_prime :
     ← Finset.prod_const]
   apply Associated.prod
   intro η hη
-  refine hζ.toInteger_isPrimitiveRoot.ntRootsFinset_pairwise_associated_sub_one_sub_of_prime
-    hp.out (one_mem_nthRootsFinset hp.out.pos) ?_ ?_
-  · exact (isPrimitiveRoot_of_mem_primitiveRoots hη).mem_nthRootsFinset hp.out.pos
-  · exact ((isPrimitiveRoot_of_mem_primitiveRoots hη).ne_one hp.out.one_lt).symm
+  have hη' : IsPrimitiveRoot (η : K) p :=
+    (isPrimitiveRoot_of_mem_primitiveRoots hη).map_of_injective RingOfIntegers.coe_injective
+  have hηtoInteger : hη'.toInteger = η := RingOfIntegers.ext rfl
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean]: `:= rfl` works here. But I think this would make sense as a `simp` lemma.
Then the last two lines are simply
`simpa using (associated_one_sub_of_isPrimitiveRoot p hζ hη').neg_left`.

File: Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean [hunk 8]
```diff
@@ -182,6 +182,52 @@ instance isPrime_span_zeta_sub_one' : IsPrime (span {hζ.toInteger - 1}) := by
...
+`p` is prime. -/
+theorem associated_zeta_sub_one_pow_prime :
+    Associated ((hζ.toInteger - 1) ^ (p - 1)) (p : 𝓞 K) := by
+  rw [← eval_one_cyclotomic_prime (R := 𝓞 K) (p := p),
+    cyclotomic_eq_prod_X_sub_primitiveRoots hζ.toInteger_isPrimitiveRoot, eval_prod]
+  simp only [eval_sub, eval_X, eval_C]
+  rw [← Nat.totient_prime hp.out, ← hζ.toInteger_isPrimitiveRoot.card_primitiveRoots,
+    ← Finset.prod_const]
+  apply Associated.prod
+  intro η hη
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean]: One could compress this to

```suggestion
  refine Associated.prod _ _ _ fun η hη ↦ ?_
```
(but the three `_`s are maybe a bit ugly...)

File: Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean [hunk 9]
```diff
@@ -182,6 +182,52 @@ instance isPrime_span_zeta_sub_one' : IsPrime (span {hζ.toInteger - 1}) := by
...
+  simpa only [hηtoInteger, neg_sub] using
+    (associated_one_sub_of_isPrimitiveRoot p hζ hη').neg_left
+
+/-- If `ζ - 1` does not divide `x`, then `p` and `x` are coprime, where `ζ` is a primitive `p`-th
+root of unity and `p` is prime. -/
+theorem isCoprime_of_not_zeta_sub_one_dvd {x : 𝓞 K} (hx : ¬ hζ.toInteger - 1 ∣ x) :
+    IsCoprime (p : 𝓞 K) x := by
+  rwa [← isCoprime_span_singleton_iff,  ← span_singleton_eq_span_singleton.mpr
+    (associated_zeta_sub_one_pow_prime p hζ), ← span_singleton_pow, IsCoprime.pow_left_iff
+    (by grind [hp.out.one_lt]), isCoprime_iff_gcd, (prime_span_singleton_iff.mpr
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean]: I'd prefer `IsCoprime.pow_left_iff (by grind [hp.out.one_lt])` to not have a line break in the middle for readability, even if it costs a line.

**Review by MichaelStollBayreuth — APPROVED** [review]
Some minor suggestions.

File: Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean [hunk 10]
```diff
@@ -190,12 +190,16 @@ theorem two_not_mem_span_zeta_sub_one' (h : 2 < p) : (2 : 𝓞 K) ∉ span {hζ.
...
   obtain ⟨i, -, hi, hζη⟩ := hζ.isPrimitiveRoot_iff.mp hη
   rw [show hη.toInteger = hζ.toInteger ^ i from RingOfIntegers.ext hζη.symm]
-  simpa only [neg_sub] using
-    (hζ.toInteger_isPrimitiveRoot.associated_sub_one_pow_sub_one_of_coprime hi).neg_left.neg_right
+  exact hζ.toInteger_isPrimitiveRoot.associated_sub_one_pow_sub_one_of_coprime hi
+
+@[deprecated "The statement has been changed to use the `ζ - 1` spelling rather than `1 - ζ`, \
+for consistency with the rest of the API, so the type is now different. \
+Use `associated_sub_one_of_isPrimitiveRoot` instead." (since := "2026-06-23")]
+alias associated_one_sub_of_isPrimitiveRoot := associated_sub_one_of_isPrimitiveRoot
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean]: I think this is not necessary: the lemma is new anyway and so the old version cannot yet have been used elsewhere.

**Review by MichaelStollBayreuth — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by joelriou** [comment]
Thanks!

bors merge
